Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hemoptysis
 
Major Surgical or Invasive Procedure:
___ FLEX AND RIGID BRONCHOSCOPY,EBUS TBNA BX

 
History of Present Illness:
___ is an ___ man with significant tobacco use
hx (former smoker) but no PMHx and on no medications, who
initially presented to ___ for a 3-week hx of hemoptysis
with chest pain, was found on CT to have a 10cm thoracic mass
abutting the trachea, now transferred here for further oncologic
workup and management.

Per history obtained in the ED, pt was in USOH until 3 weeks ago
when he started to have ___ episodes of low-volume hemoptysis 
per
day producing dark blood with clots.  Three days after the onset
of his hemoptysis, he noted L posterior chest pain that he
described as ___, non-radiating, and non-positional that
occasionally wakes him up at night. He also endorsed L anterior
chest pain that was less severe than the posterior chest pain. 
He
did not seek medical attention until this morning when he went 
to
the ___ for evaluation of his hemoptysis. Reports that 
he
decided to present today because the pain was keeping him awake
at night, preventing him from sleeping, and he was getting 
tired.
A chest CT was performed that revealed a 6 x 8 x 10 cm
left/central thoracic mass bordering his trachea but with no
signs of trachea compression.

Throughout, he has not experienced dyspnea. Patient denies
fevers, chills, night sweats, nausea, vomiting, abdominal pain,
changes in stool or changes in urination. Does endorse a 5 lb
weight loss but is unclear on the time period over which this
occurred.

- In the ED, initial vitals were:
  - T 98 HR 60 BP 112/58 RR 16 O2 98% on RA
- Exam was notable for:
  - Midline trachea, decreased breath sounds in mid to superior 
    L lung posteriorly, otherwise clear to auscultation. 
- Labs were notable for

       12.2         140 |103| 11
   7.9>----<255     -------------<98     *Hemolyzed specimen
       40.5         6.2*| 26| 0.9

  - ___ 14.9, PTT 30.9, INR 1.3
  - ALT 13, AST 30, AP 79, TBili 0.5, Alb 3.5
  - Lactate 1.7
  - K: 7.5 (hemolyzed) ---> 4.5
- Studies were notable for: 
  - OSH CT w/ 7.6x10x6cm left central tracheal mass that is 
    adherent to the trachea but not causing compression.
- The patient was given:
  - Tranexamic acid NEB 500mg Q8H
- Consults:
  - IP: Bronch on ___, about 1tbsp of blood every time he 
    coughs, if massive hemoptysis overnight, have him intubated 
    with ET tube on R side. 

 
Past Medical History:
No past medical history.
 
Social History:
___
Family History:
Parents and siblings with HTN and diabetes
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:
24 HR Data (last updated ___ @ 2325)
    Temp: 99.2 (Tm 99.2), BP: 130/69 (130-142/69-71), HR: 77
(77-85), RR: 16 (___), O2 sat: 98% (97-98), O2 delivery: RA,
Wt: 136.46 lb/61.9 kg  
GENERAL:     Alert and interactive. In no acute distress.
HEENT:       PERRL, EOMI. MMM.
CARDIAC:     RRR no m/r/g
LUNGS:       Decreased breath sound on the left in the upper 
             lung lobe. Otherwise CTAB no r/r/w.
ABDOMEN:     Soft, NT, ND, +BS
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN:        Warm. No rashes.
NEUROLOGIC:  AOx3. CN2-12 intact. Moving all 4 limbs 
             spontaneously. 

DISCHARGE PHYSICAL EXAM:
========================
___ Temp: 97.8BP: 127/70, HR: 74, RR: 18, O2 sat: 96%, O2 
delivery: Ra  
GENERAL: NAD 
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: decrease breath sounds lower lobes, no wheezes, rales, 
rhonchi,
breathing comfortably without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: Warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS:
================
___ 03:58PM BLOOD WBC-7.9 RBC-4.45* Hgb-12.2* Hct-40.5 
MCV-91 MCH-27.4 MCHC-30.1* RDW-13.1 RDWSD-43.3 Plt ___
___ 03:58PM BLOOD Neuts-62.9 ___ Monos-11.3 Eos-4.3 
Baso-0.8 Im ___ AbsNeut-4.99 AbsLymp-1.62 AbsMono-0.90* 
AbsEos-0.34 AbsBaso-0.06
___ 03:58PM BLOOD ___ PTT-30.9 ___
___ 03:58PM BLOOD Plt ___
___ 03:58PM BLOOD Glucose-98 UreaN-11 Creat-0.9 Na-140 
K-6.2* Cl-103 HCO3-26 AnGap-11
___ 03:58PM BLOOD ALT-13 AST-30 AlkPhos-79 TotBili-0.5
___ 03:58PM BLOOD Albumin-3.5
___ 04:00PM BLOOD Lactate-1.7 K-7.5*
___ 06:23PM BLOOD K-4.5

RELEVANT LABS:
=============
___ 08:00AM BLOOD WBC-6.6 RBC-4.60 Hgb-12.8* Hct-42.0 
MCV-91 MCH-27.8 MCHC-30.5* RDW-13.0 RDWSD-42.6 Plt ___
___ 01:30PM BLOOD WBC-8.0 RBC-4.30* Hgb-11.9* Hct-39.1* 
MCV-91 MCH-27.7 MCHC-30.4* RDW-12.9 RDWSD-42.6 Plt ___
___ 08:00AM BLOOD Plt ___
___ 01:30PM BLOOD ___ PTT-29.1 ___
___ 01:30PM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-81 UreaN-13 Creat-1.0 Na-144 
K-5.0 Cl-102 HCO3-25 AnGap-17
___ 08:00AM BLOOD ALT-11 AST-12 LD(LDH)-241 AlkPhos-78 
TotBili-0.5
___ 08:00AM BLOOD Albumin-3.7
___ 01:30PM BLOOD Calcium-9.6 Phos-3.1 Mg-2.1

RELEVANT IMAGING:
=================
___ Pathology Tissue: Immunophenotyping specimen
-Pending 

___ Cytology FINE NEEDLE ASPIRATION
-Pending 
 
___ Imaging CHEST (PORTABLE AP) 
IMPRESSION:  
There is a large left supramediastinal mass.  This is better 
assessed on the dedicated CT scan.  The rest of the lung fields 
are clear.  Heart size is within normal limits.  No 
pneumothoraces are seen. 

___ Imaging MR HEAD W & W/O CONTRAS 
IMPRESSION:  
1. No evidence of metastases. 
2. No acute intracranial abnormality is identified. 

___ Pulm/Sleep Pulmonary/Bronchoscopy 
Impression:
- Bronchoscopy of lung nodule
- Lung mass
- Airway obstruction

DISCHARGE LABS:
=================
___ 06:36AM BLOOD WBC-8.2 RBC-4.75 Hgb-13.1* Hct-42.8 
MCV-90 MCH-27.6 MCHC-30.6* RDW-12.9 RDWSD-42.4 Plt ___
___ 06:36AM BLOOD Plt ___
___ 06:36AM BLOOD D-Dimer-1566*
___ 01:30PM BLOOD ___
___ 06:36AM BLOOD Glucose-103* UreaN-11 Creat-1.1 Na-142 
K-4.8 Cl-101 HCO3-27 AnGap-14
___ 06:36AM BLOOD Calcium-9.7 Phos-2.5* Mg-2.2
 
Brief Hospital Course:
Mr. ___ is an ___ man with significant tobacco 
use hx (former smoker) but no PMHx and on no medications, who 
initially presented hemoptysis with chest pain, was found on CT 
to have a 10cm lung mass, now transferred here for further 
oncologic workup and management. Currently post-op from Bronch 
with biopsy on ___. MRI head was done during the 
hospitalization and he will need a PET Scan as an out patient.

ACTIVE ISSUES:
# Lung Mass
# Chest pain
# Hemoptysis
Patient with three weeks of hemoptysis and similar duration of 
left sided back pain likely secondary to thoracic mass seen on 
CT as EKG was negative for ischemic changes. Patient was 
transferred to ___ from OSH for oncologic work-up. Of note the 
mass is not compressing the trachea or compromising the airway. 
Finding are concerning for malignancy. He has been 
hemodynamically stable. H/H has been stable during the 
admission. Bronchoscopic biopsy was done on ___ and MRI of head 
did not show evidence of metastasis. Patient is currently 
asymptomatic and will require a PET Scan for staging as 
___. He has follow up with IP on ___ to communicate 
biopsy results and discuss next steps. 

#Anemia, normocytic
Likely ___ subacute blood loss iso hemoptysis. H/H stable during 
hospital stay without transfusions. Discharge Hgb 13.1.

#Coagulopathy
Mildly elevated INR in a patient with no medications at home. 
Could be related to potential malignancy. Patient also had 
elevated D-Dimer and Fibrinogen most likely related to the 
malignancy. Patient does not have any clinical signs of DIC and 
Wells score is of ___ so unlikely to be a PE. He also had a CT 
of chest with contrast at ___ which which showed no 
thrombus. He received a vitamin K challenge while in house. Can 
consider checking INR at ___. Discharge INR 1.3 on 
___.

Transitional issues:
------------------
[ ] PET scan per oncology
[ ] Consider repeat CBC and ___ in one week to trend 
Hemoglobin and INR
-- Discharge Hgb 13.1
-- Discharge INR 1.3

Code status: Full code (presumed)
Name of health care proxy: ___
Relationship: Wife
Phone number: ___

Patient seen and examined on day of discharge. >30 minutes on 
discharge activities. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Lung mass concerning for malignancy
Former tobacco use 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
====================== 
DISCHARGE INSTRUCTIONS 
====================== 
Dear Mr. ___, 
It was a privilege caring for you at ___ 
___. 

WHY WAS I IN THE HOSPITAL? 
- You were in the hospital because you presented to ___ for 
a 3-week history of coughing up of blood with chest pain
- An image of your lungs showed a 10cm Lung mass
- You were transferred her further cancer workup.

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- At the hospital we took a look at your lung by having a camera 
go into your lungs and took a small piece of the lung mass to 
identify what it is. 
- We also did other imaging (MRI) to see if the cancer had 
spread to the brain, but we did not see any evidence of 
metastasis.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- You do not have any new medications
- You have a follow up with your oncologist to talk about 
further workup for this lung mass. The results of your biopsy 
may be back by then. You will also discuss a PET scan (this scan 
will look for any spread of cancer to other parts of your body). 
You should discuss this with your oncologist at your next 
appointment.
- It is important for you to set up a PCP for regular ___ 
after discharge.

We wish you the best! 

Sincerely, 
Your ___ Team 

 
Followup Instructions:
___